US07157488B2
2-(2-(5-Propoxy-1-triisopropylsilanyl-1H-indol-3-yl)ethyl)isoindole-1,3-dione
Combine 2-(2-(5-hydroxy-1-triisopropylsilanyl-1H-indol-3-yl)ethyl)isoindole-1,3-dione (0.7 g, 1.5 mmol), cesium carbonate (1 g, 3 mmol) and 1-iodopropane (0.4 g, 2.3 mmol) in DMF (25 mL) and stir at ambient temperature overnight. Pour the reaction mixture into 50% EtOAc in hexanes and wash three times with brine. Dry the organic layer over MgSO4 and concentrate under vacuum to give an oil. Chromatograph the oil on silica gel eluting with 5% EtOAc in hexanes to give the title compound: ISMS 505 (M+1); 1H NMR (CDCl3) 7.80–7.78 (m, 2H), 7.67–7.65 (m, 2H), 7.30–7.27 (d, 1H), 7.12–7.11 (d, 1H), 7.02 (s, 1H), 6.77–6.74 (m, 1H), 4.01–3.96 (m, 4H), 3.12–3.08 (m; 2H), 1.86–1.81 (m 2H), 1.64–1.57 (m, 3H), 1.08–1.04 (m, 21H).

reactant | 2-(2-(5-hydroxy-1-triisopropylsilanyl-1H-indol-3-yl)ethyl)isoindole-1,3-dione | 1.5 mmol, 0.7 g | OC=1C=C2C(=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)CCN1C(C2=CC=CC=C2C1=O)=O | C27H34N2O3Si
reactant | cesium carbonate | 3 mmol, 1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-iodopropane | 2.3 mmol, 0.4 g | ICCC | C3H7I
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 2-(2-(5-Propoxy-1-triisopropylsilanyl-1H-indol-3-yl)ethyl)isoindole-1,3-dione | C(CC)OC=1C=C2C(=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)CCN1C(C2=CC=CC=C2C1=O)=O | C30H40N2O3Si
